simulator lang=spectre
global 0 vdd!
parameters fsamp=250M J=127 M=2048 pts_per_symbol=32 tstart=400n trim0=32 \
    trim1=32 trim2=32 trim3=32 trim4=32 trim5=32 trim6=32 trim7=32 \
    tstep=1/(pts_per_symbol*fsamp) tstop=tstart + (M+10)/fsamp
include "/homes/user/stud/fall25/yw4576/pdk/TSMC018_teaching.scs" section=tt

subckt Test_Trim_Input_DC_Array T0\<0\> T0\<1\> T0\<2\> T0\<3\> T0\<4\> \
        T0\<5\> T1\<0\> T1\<1\> T1\<2\> T1\<3\> T1\<4\> T1\<5\> T2\<0\> \
        T2\<1\> T2\<2\> T2\<3\> T2\<4\> T2\<5\> T3\<0\> T3\<1\> T3\<2\> \
        T3\<3\> T3\<4\> T3\<5\> T4\<0\> T4\<1\> T4\<2\> T4\<3\> T4\<4\> \
        T4\<5\> T5\<0\> T5\<1\> T5\<2\> T5\<3\> T5\<4\> T5\<5\> T6\<0\> \
        T6\<1\> T6\<2\> T6\<3\> T6\<4\> T6\<5\> T7\<0\> T7\<1\> T7\<2\> \
        T7\<3\> T7\<4\> T7\<5\>
    V11 (T6\<3\> 0) vsource dc=1.8*(floor(trim6/8)-2*floor(trim6/16)) \
        type=dc
    V10 (T7\<3\> 0) vsource dc=1.8*(floor(trim7/8)-2*floor(trim7/16)) \
        type=dc
    V9 (T6\<4\> 0) vsource dc=1.8*(floor(trim6/16)-2*floor(trim6/32)) \
        type=dc
    V8 (T7\<4\> 0) vsource dc=1.8*(floor(trim7/16)-2*floor(trim7/32)) \
        type=dc
    V7 (T7\<5\> 0) vsource dc=1.8*(floor(trim7/32)-2*floor(trim7/64)) \
        type=dc
    V6 (T6\<5\> 0) vsource dc=1.8*(floor(trim6/32)-2*floor(trim6/64)) \
        type=dc
    V5 (T7\<2\> 0) vsource dc=1.8*(floor(trim7/4)-2*floor(trim7/8)) \
        type=dc
    V4 (T7\<1\> 0) vsource dc=1.8*(floor(trim7/2)-2*floor(trim7/4)) \
        type=dc
    V3 (T7\<0\> 0) vsource dc=1.8*(floor(trim7/1)-2*floor(trim7/2)) \
        type=dc
    V2 (T6\<0\> 0) vsource dc=1.8*(floor(trim6/1)-2*floor(trim6/2)) \
        type=dc
    V1 (T6\<1\> 0) vsource dc=1.8*(floor(trim6/2)-2*floor(trim6/4)) \
        type=dc
    V0 (T6\<2\> 0) vsource dc=1.8*(floor(trim6/4)-2*floor(trim6/8)) \
        type=dc
    V62 (T0\<0\> 0) vsource dc=1.8*(floor(trim0/1)-2*floor(trim0/2)) \
        type=dc
    V61 (T1\<0\> 0) vsource dc=1.8*(floor(trim1/1)-2*floor(trim1/2)) \
        type=dc
    V60 (T2\<0\> 0) vsource dc=1.8*(floor(trim2/1)-2*floor(trim2/2)) \
        type=dc
    V59 (T3\<0\> 0) vsource dc=1.8*(floor(trim3/1)-2*floor(trim3/2)) \
        type=dc
    V58 (T5\<0\> 0) vsource dc=1.8*(floor(trim5/1)-2*floor(trim5/2)) \
        type=dc
    V57 (T4\<0\> 0) vsource dc=1.8*(floor(trim4/1)-2*floor(trim4/2)) \
        type=dc
    V56 (T4\<1\> 0) vsource dc=1.8*(floor(trim4/2)-2*floor(trim4/4)) \
        type=dc
    V55 (T5\<1\> 0) vsource dc=1.8*(floor(trim5/2)-2*floor(trim5/4)) \
        type=dc
    V54 (T3\<1\> 0) vsource dc=1.8*(floor(trim3/2)-2*floor(trim3/4)) \
        type=dc
    V53 (T2\<1\> 0) vsource dc=1.8*(floor(trim2/2)-2*floor(trim2/4)) \
        type=dc
    V52 (T1\<1\> 0) vsource dc=1.8*(floor(trim1/2)-2*floor(trim1/4)) \
        type=dc
    V51 (T0\<1\> 0) vsource dc=1.8*(floor(trim0/2)-2*floor(trim0/4)) \
        type=dc
    V50 (T0\<2\> 0) vsource dc=1.8*(floor(trim0/4)-2*floor(trim0/8)) \
        type=dc
    V49 (T1\<2\> 0) vsource dc=1.8*(floor(trim1/4)-2*floor(trim1/8)) \
        type=dc
    V48 (T2\<2\> 0) vsource dc=1.8*(floor(trim2/4)-2*floor(trim2/8)) \
        type=dc
    V47 (T3\<2\> 0) vsource dc=1.8*(floor(trim3/4)-2*floor(trim3/8)) \
        type=dc
    V46 (T5\<2\> 0) vsource dc=1.8*(floor(trim5/4)-2*floor(trim5/8)) \
        type=dc
    V45 (T4\<2\> 0) vsource dc=1.8*(floor(trim4/4)-2*floor(trim4/8)) \
        type=dc
    V44 (T4\<3\> 0) vsource dc=1.8*(floor(trim4/8)-2*floor(trim4/16)) \
        type=dc
    V43 (T5\<3\> 0) vsource dc=1.8*(floor(trim5/8)-2*floor(trim5/16)) \
        type=dc
    V42 (T3\<3\> 0) vsource dc=1.8*(floor(trim3/8)-2*floor(trim3/16)) \
        type=dc
    V41 (T2\<3\> 0) vsource dc=1.8*(floor(trim2/8)-2*floor(trim2/16)) \
        type=dc
    V40 (T1\<3\> 0) vsource dc=1.8*(floor(trim1/8)-2*floor(trim1/16)) \
        type=dc
    V39 (T0\<3\> 0) vsource dc=1.8*(floor(trim0/8)-2*floor(trim0/16)) \
        type=dc
    V38 (T4\<4\> 0) vsource dc=1.8*(floor(trim4/16)-2*floor(trim4/32)) \
        type=dc
    V37 (T5\<4\> 0) vsource dc=1.8*(floor(trim5/16)-2*floor(trim5/32)) \
        type=dc
    V36 (T3\<4\> 0) vsource dc=1.8*(floor(trim3/16)-2*floor(trim3/32)) \
        type=dc
    V35 (T2\<4\> 0) vsource dc=1.8*(floor(trim2/16)-2*floor(trim2/32)) \
        type=dc
    V34 (T1\<4\> 0) vsource dc=1.8*(floor(trim1/16)-2*floor(trim1/32)) \
        type=dc
    V33 (T0\<4\> 0) vsource dc=1.8*(floor(trim0/16)-2*floor(trim0/32)) \
        type=dc
    V21 (T1\<5\> 0) vsource dc=1.8*(floor(trim1/32)-2*floor(trim1/64)) \
        type=dc
    V20 (T0\<5\> 0) vsource dc=1.8*(floor(trim0/32)-2*floor(trim0/64)) \
        type=dc
    V19 (T3\<5\> 0) vsource dc=1.8*(floor(trim3/32)-2*floor(trim3/64)) \
        type=dc
    V18 (T2\<5\> 0) vsource dc=1.8*(floor(trim2/32)-2*floor(trim2/64)) \
        type=dc
    V17 (T5\<5\> 0) vsource dc=1.8*(floor(trim5/32)-2*floor(trim5/64)) \
        type=dc
    V16 (T4\<5\> 0) vsource dc=1.8*(floor(trim4/32)-2*floor(trim4/64)) \
        type=dc
ends Test_Trim_Input_DC_Array

subckt CLK_INV IN OUT
    M4 (OUT IN 0 0) nch w=360n l=180.00n m=1
    M5 (OUT IN vdd! vdd!) pch w=720n l=180.00n m=1
ends CLK_INV

subckt NAND A B OUT
parameters Msize
    M2 (OUT B vdd! vdd!) pch w=220n l=180.00n m=2*Msize
    M5 (OUT A vdd! vdd!) pch w=220n l=180.00n m=2*Msize
    M0 (OUT A net1 net1) nch w=220n l=180.00n m=2*Msize
    M1 (net1 B 0 0) nch w=220n l=180.00n m=2*Msize
ends NAND

subckt Inverter IN OUT
parameters Msize
    M1 (OUT IN 0 0) nch w=220n l=180.00n m=Msize
    M5 (OUT IN vdd! vdd!) pch w=220n l=180.00n m=2*Msize
ends Inverter

subckt Bit_Retimer CLKC CLKT D Dret nDret
    I7 (Dret net9 nDret) NAND Msize=512
    I6 (net7 nDret Dret) NAND Msize=512
    I4 (net2 net11 net7) NAND Msize=32
    I5 (net6 net11 net9) NAND Msize=32
    I3 (net2 net15 net4) NAND Msize=256
    I2 (net14 net4 net2) NAND Msize=256
    I0 (D net12 net14) NAND Msize=32
    I1 (net3 net12 net15) NAND Msize=32
    Iinv5 (net8 net11) Inverter Msize=2
    Iinv4 (CLKT net8) Inverter Msize=2
    Iinv3 (net10 net12) Inverter Msize=2
    Iinv2 (CLKC net10) Inverter Msize=2
    Iinv1 (net2 net6) Inverter Msize=256
    Iinv0 (D net3) Inverter Msize=256
ends Bit_Retimer

subckt Input_Retimer CLKC CLKT D\<0\> D\<1\> D\<2\> D\<3\> D\<4\> D\<5\> \
        D\<6\> D\<7\> Dret\<0\> Dret\<1\> Dret\<2\> Dret\<3\> Dret\<4\> \
        Dret\<5\> Dret\<6\> Dret\<7\> nDret\<0\> nDret\<1\> nDret\<2\> \
        nDret\<3\> nDret\<4\> nDret\<5\> nDret\<6\> nDret\<7\>
    I17 (CLKC CLKT D\<7\> Dret\<7\> nDret\<7\>) Bit_Retimer
    I16 (CLKC CLKT D\<6\> Dret\<6\> nDret\<6\>) Bit_Retimer
    I15 (CLKC CLKT D\<5\> Dret\<5\> nDret\<5\>) Bit_Retimer
    I14 (CLKC CLKT D\<4\> Dret\<4\> nDret\<4\>) Bit_Retimer
    I12 (CLKC CLKT D\<2\> Dret\<2\> nDret\<2\>) Bit_Retimer
    I10 (CLKC CLKT D\<0\> Dret\<0\> nDret\<0\>) Bit_Retimer
    I11 (CLKC CLKT D\<1\> Dret\<1\> nDret\<1\>) Bit_Retimer
    I13 (CLKC CLKT D\<3\> Dret\<3\> nDret\<3\>) Bit_Retimer
ends Input_Retimer

subckt Bias_Generator Vb
    M0 (Vb Vb 0 0) nch w=3.5u l=800n
    I2 (vdd! Vb) isource dc=100u type=dc
    V0 (vdd! 0) vsource dc=1.8 type=dc
ends Bias_Generator

subckt Output_Load OUTn OUTp
    R1 (vdd! OUTn) resistor r=50
    R0 (vdd! OUTp) resistor r=50
    C1 (OUTn 0) capacitor c=550f
    C0 (OUTp 0) capacitor c=550f
ends Output_Load

subckt Current_Steering_Switch Dn Dp OUTn OUTp S
parameters weight
    MswP (OUTp Dn S S) nch w=500n l=180n m=weight
    MswN (OUTn Dp S S) nch w=500n l=180n m=weight
ends Current_Steering_Switch

subckt Trim_DAC D TRIM Vb
parameters weight
    M3 (nTRIM TRIM vdd! vdd!) pch w=10u l=180.00n
    M2 (net1 nTRIM D D) pch w=4.5u l=180.00n m=2
    M5 (D TRIM net1 net1) nch w=4.5u l=180.00n m=1
    MT (net1 Vb 0 0) nch w=220n l=20u m=weight
    M4 (nTRIM TRIM 0 0) nch w=10u l=180.00n
ends Trim_DAC

subckt ADI_Project_6b_Trim_DAC_schematic Dt TRIM\<0\> TRIM\<1\> TRIM\<2\> \
        TRIM\<3\> TRIM\<4\> TRIM\<5\> Vb
parameters weight
    I5 (Dt TRIM\<5\> Vb) Trim_DAC weight=32*weight
    I4 (Dt TRIM\<4\> Vb) Trim_DAC weight=16*weight
    I3 (Dt TRIM\<3\> Vb) Trim_DAC weight=8*weight
    I2 (Dt TRIM\<2\> Vb) Trim_DAC weight=4*weight
    I1 (Dt TRIM\<1\> Vb) Trim_DAC weight=2*weight
    I0 (Dt TRIM\<0\> Vb) Trim_DAC weight=weight
ends ADI_Project_6b_Trim_DAC_schematic

subckt Current_Source D Vb
parameters weight
    Mcs (D Vb 0 0) nch w=1.183u l=500.0n m=weight
ends Current_Source

subckt Bit_cell Dn Dp OUTn OUTp TRIM\<0\> TRIM\<1\> TRIM\<2\> TRIM\<3\> \
        TRIM\<4\> TRIM\<5\> Vb
parameters weight
    I6 (Dn Dp OUTn OUTp net2) Current_Steering_Switch weight=weight
    I5 (net2 TRIM\<0\> TRIM\<1\> TRIM\<2\> TRIM\<3\> TRIM\<4\> TRIM\<5\> \
        Vb) ADI_Project_6b_Trim_DAC_schematic weight=weight
    I2 (net2 Vb) Current_Source weight=weight
ends Bit_cell

subckt DAC_core Dn\<0\> Dn\<1\> Dn\<2\> Dn\<3\> Dn\<4\> Dn\<5\> Dn\<6\> \
        Dn\<7\> Dp\<0\> Dp\<1\> Dp\<2\> Dp\<3\> Dp\<4\> Dp\<5\> Dp\<6\> \
        Dp\<7\> OUTn OUTp T0\<0\> T0\<1\> T0\<2\> T0\<3\> T0\<4\> T0\<5\> \
        T1\<0\> T1\<1\> T1\<2\> T1\<3\> T1\<4\> T1\<5\> T2\<0\> T2\<1\> \
        T2\<2\> T2\<3\> T2\<4\> T2\<5\> T3\<0\> T3\<1\> T3\<2\> T3\<3\> \
        T3\<4\> T3\<5\> T4\<0\> T4\<1\> T4\<2\> T4\<3\> T4\<4\> T4\<5\> \
        T5\<0\> T5\<1\> T5\<2\> T5\<3\> T5\<4\> T5\<5\> T6\<0\> T6\<1\> \
        T6\<2\> T6\<3\> T6\<4\> T6\<5\> T7\<0\> T7\<1\> T7\<2\> T7\<3\> \
        T7\<4\> T7\<5\> Vb
    IBIT_cell_6 (Dn\<6\> Dp\<6\> OUTn OUTp T6\<0\> T6\<1\> T6\<2\> T6\<3\> \
        T6\<4\> T6\<5\> Vb) Bit_cell weight=64
    IBIT_cell_5 (Dn\<5\> Dp\<5\> OUTn OUTp T5\<0\> T5\<1\> T5\<2\> T5\<3\> \
        T5\<4\> T5\<5\> Vb) Bit_cell weight=32
    IBIT_cell_4 (Dn\<4\> Dp\<4\> OUTn OUTp T4\<0\> T4\<1\> T4\<2\> T4\<3\> \
        T4\<4\> T4\<5\> Vb) Bit_cell weight=16
    IBIT_cell_3 (Dn\<3\> Dp\<3\> OUTn OUTp T3\<0\> T3\<1\> T3\<2\> T3\<3\> \
        T3\<4\> T3\<5\> Vb) Bit_cell weight=8
    IBIT_cell_2 (Dn\<2\> Dp\<2\> OUTn OUTp T2\<0\> T2\<1\> T2\<2\> T2\<3\> \
        T2\<4\> T2\<5\> Vb) Bit_cell weight=4
    IBIT_cell_1 (Dn\<1\> Dp\<1\> OUTn OUTp T1\<0\> T1\<1\> T1\<2\> T1\<3\> \
        T1\<4\> T1\<5\> Vb) Bit_cell weight=2
    IBIT_cell_7 (Dn\<7\> Dp\<7\> OUTn OUTp T7\<0\> T7\<1\> T7\<2\> T7\<3\> \
        T7\<4\> T7\<5\> Vb) Bit_cell weight=128
    IBIT_cell_0 (Dn\<0\> Dp\<0\> OUTn OUTp T0\<0\> T0\<1\> T0\<2\> T0\<3\> \
        T0\<4\> T0\<5\> Vb) Bit_cell weight=1
ends DAC_core

I2 (net1\<0\> net1\<1\> net1\<2\> net1\<3\> net1\<4\> net1\<5\> net2\<0\> \
        net2\<1\> net2\<2\> net2\<3\> net2\<4\> net2\<5\> net3\<0\> \
        net3\<1\> net3\<2\> net3\<3\> net3\<4\> net3\<5\> net4\<0\> \
        net4\<1\> net4\<2\> net4\<3\> net4\<4\> net4\<5\> net5\<0\> \
        net5\<1\> net5\<2\> net5\<3\> net5\<4\> net5\<5\> net6\<0\> \
        net6\<1\> net6\<2\> net6\<3\> net6\<4\> net6\<5\> net7\<0\> \
        net7\<1\> net7\<2\> net7\<3\> net7\<4\> net7\<5\> net8\<0\> \
        net8\<1\> net8\<2\> net8\<3\> net8\<4\> net8\<5\>) \
        Test_Trim_Input_DC_Array
V2 (Vin 0) vsource type=sine sinedc=900.0m ampl=900m sinephase=0 \
        freq=fsamp*J/M
V0 (net12 0) vsource type=pulse val0=1.8 val1=0 period=1/fsamp \
        rise=0.01/fsamp fall=0.01/fsamp width=0.49/fsamp
V1 (net11 0) vsource type=pulse val0=0 val1=1.8 period=1/fsamp \
        rise=0.01/fsamp fall=0.01/fsamp width=0.49/fsamp
I4 (net11 CLKC) CLK_INV
I3 (net12 CLKT) CLK_INV
I0 (D\<7\> D\<6\> D\<5\> D\<4\> D\<3\> D\<2\> D\<1\> D\<0\> Vin CLKT) \
        adc_8bit_ideal trise=0.01/fsamp tfall=0.01/fsamp tdel=10p \
        vlogic_high=1.8 vlogic_low=0 vtrans_clk=0.9 vref=1.8
I20 (CLKC CLKT D\<0\> D\<1\> D\<2\> D\<3\> D\<4\> D\<5\> D\<6\> D\<7\> \
        Dret\<0\> Dret\<1\> Dret\<2\> Dret\<3\> Dret\<4\> Dret\<5\> \
        Dret\<6\> Dret\<7\> nDret\<0\> nDret\<1\> nDret\<2\> nDret\<3\> \
        nDret\<4\> nDret\<5\> nDret\<6\> nDret\<7\>) Input_Retimer
I9 (net13) Bias_Generator
I18 (OUTn OUTp) Output_Load
I19 (nDret\<0\> nDret\<1\> nDret\<2\> nDret\<3\> nDret\<4\> nDret\<5\> \
        nDret\<6\> nDret\<7\> Dret\<0\> Dret\<1\> Dret\<2\> Dret\<3\> \
        Dret\<4\> Dret\<5\> Dret\<6\> Dret\<7\> OUTn OUTp net1\<0\> \
        net1\<1\> net1\<2\> net1\<3\> net1\<4\> net1\<5\> net2\<0\> \
        net2\<1\> net2\<2\> net2\<3\> net2\<4\> net2\<5\> net3\<0\> \
        net3\<1\> net3\<2\> net3\<3\> net3\<4\> net3\<5\> net4\<0\> \
        net4\<1\> net4\<2\> net4\<3\> net4\<4\> net4\<5\> net5\<0\> \
        net5\<1\> net5\<2\> net5\<3\> net5\<4\> net5\<5\> net6\<0\> \
        net6\<1\> net6\<2\> net6\<3\> net6\<4\> net6\<5\> net7\<0\> \
        net7\<1\> net7\<2\> net7\<3\> net7\<4\> net7\<5\> net8\<0\> \
        net8\<1\> net8\<2\> net8\<3\> net8\<4\> net8\<5\> net13) DAC_core
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=500n errpreset=conservative step=tstep write="spectre.ic" \
    writefinal="spectre.fc" annotate=status strobeperiod=tstep \
    strobeoutput=strobeonly maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
ahdl_include "/tools/cadence/IC618.270/tools/dfII/samples/artist/ahdlLib/adc_8bit_ideal/veriloga/veriloga.va"
